US07268230B2
A mixture of 4-chloro-7-hydroxy-6-methoxyquinazoline (665 mg, 3.16 mmol), (prepared as described for the starting material in Example 4), 3-(3-hydroxypropyl)imidazolidine-2,4-dione (600 mg, 3.79 mmol) and triphenylphosphine in dichloromethane (15 ml) was stirred and cooled to 0° C. Diisopropyl azodicarboxylate (747 μl, 3.79 mmol) in dichloromethane (5 ml) was added and the mixture stirred at ambient temperature for 3 hours. Initially all material went into solution but later a precipitate formed. The mixture was concentrated and the solid residue suspended in methanol, filtered and dried in air to give 4-chloro-7-[3-(2,5-dioxoimidazolidin-1-yl)propoxy]-6-methoxyquinazoline (765 mg, 69%) as a pale yellow solid.

reactant | 4-chloro-7-hydroxy-6-methoxyquinazoline | 3.16 mmol, 665 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)O | C9H7ClN2O2
reactant | 3-(3-hydroxypropyl)imidazolidine-2,4-dione | 3.79 mmol, 600 mg | OCCCN1C(NCC1=O)=O | C6H10N2O3
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropyl azodicarboxylate | 3.79 mmol, 747 μl | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-chloro-7-[3-(2,5-dioxoimidazolidin-1-yl)propoxy]-6-methoxyquinazoline | 765 mg, 69% | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1C(NCC1=O)=O | C15H15ClN4O4
